US04886516
Step 2: 2,4-diaminotetrafluoroethoxybenzene production
89 g (0.31 moles) 2,4-dinitrotetrafluoroethoxybenzene, according to Step 1, 125 ml of a 50% aqueous solution of ethanol and 106.5 g iron powder (1.91 moles) are heated to 60°-70° C. in a water bath in a three-necked flask, which is equipped with a reflux condensor, drop addition funnel, stirrer and internal thermometer. Next, a solution of 6.5 ml concentrated hydrochloric acid in 30 ml 50% aqueous solution of ethanol is added dropwise so that the reduction takes place accompanied by reflux and gentle boiling. When the addition is terminated it is then stirred for 2 hours accompanied by reflux, allowed to cool and neutralized with alcoholic potassium hydroxide. Unconverted iron and iron oxides are vacuum filtrated, accompanied by rewashing with ethanol. The solution is concentrated and the residue is distilled in the vacuum. 40 g (57% of the theoretical yield) of the free base is obtained which has a boiling range of 114°-117° C. at 106 Pascal. This product can be transformed into dihyrochloride with hydrochloric acid.

reactant | 2,4-dinitrotetrafluoroethoxybenzene | 0.31 moles, 89 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])OC(C(F)(F)F)F | C8H4F4N2O5
reactant | hydrochloric acid | 6.5 ml | Cl | ClH
reactant | dihyrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
catalyst | iron | 1.91 moles, 106.5 g | [Fe] | Fe
solvent | ethanol | C(C)O | C2H6O
product | 2,4-diaminotetrafluoroethoxybenzene | NC1=C(C=CC(=C1)N)OC(C(F)(F)F)F | C8H8F4N2O
